US08536165B2
B. tert-Butyl 5-methyl-2-(2,2,2-trifluoroacetamido)benzoate
To a solution of 5-methyl-2-(2,2,2-trifluoroacetamido)benzoic acid (20.23 mmol, 5.0 g) in toluene (40 ml), 1,1-di-tert-butoxy-N,N-dimethylmethanamine (80.92 mmol, 19.40 ml) was added drop wise. The mixture was stirred at 80° C. for 6 hours and the solvent was evaporated. The crude mixture was purified by chromatography over SiO2 eluting with DCM/MeOH mixtures affording 6.01 g (yield 98%) of the expected product.

reactant | 5-methyl-2-(2,2,2-trifluoroacetamido)benzoic acid | 20.23 mmol, 5.0 g | CC=1C=CC(=C(C(=O)O)C1)NC(C(F)(F)F)=O | C10H8F3NO3
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 80.92 mmol, 19.40 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | tert-Butyl 5-methyl-2-(2,2,2-trifluoroacetamido)benzoate | 6.01 g, yield 98% | CC=1C=CC(=C(C(=O)OC(C)(C)C)C1)NC(C(F)(F)F)=O | C14H16F3NO3
